US07612108B2
5-Bromo-2-isobutoxybenzonitrile and triisopropyl borate were dissolved in a mixed solvent of THF and toluene and an n-butyllithium-hexane solution was added dropwise to the solution at a temperature below −60° C. After the temperature was elevated to −20° C., 1 M hydrochloric acid was added and the whole was stirred at room temperature to obtain (3-cyano-4-isobutoxyphenyl)boronic acid. F: 220.

reactant | 5-Bromo-2-isobutoxybenzonitrile | BrC=1C=CC(=C(C#N)C1)OCC(C)C | C11H12BrNO
reactant | triisopropyl borate | B(OC(C)C)(OC(C)C)OC(C)C | C9H21BO3
reactant | hydrochloric acid | 1 M | Cl | ClH
solvent | THF | C1CCOC1 | C4H8O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | (3-cyano-4-isobutoxyphenyl)boronic acid | C(#N)C=1C=C(C=CC1OCC(C)C)B(O)O | C11H14BNO3
